US08053581B2
Step 4: Preparation of 5-n-butyl-4-(4-methoxy-phenyl)-thiazol-2-ylamine
A procedure similar to step 5 of Example 6 was used. 2-bromo-1-(4-methoxy-phenyl)-hexan-1-one prepared in the step 3, thiourea and anhydrous sodium acetate were used as starting materials, refluxed for 3 hours, followed by post-treatment to give a crude product, which was recrystallized with petroleum ether and ethyl acetate at a ratio of 1:1 (V:V) to obtain a product as a white solid in a yield of 57.2%, mp: 118-119 └. 1H-NMR (CDCl3, 400 M.Hz) δ: 0.90 (3H, t, J=7.2 Hz, CH3), 1.36 (2H, sextuple, J=7.20 Hz, CH2), 1.59 (2H, quintuple, J=7.20 Hz, CH2), 2.74 (2H, t, J=7.2 Hz, CH3), 3.83 (3H, s, OCH3), 4.93 (2H, br, NH2), 6.93 (2H, d, J=8.80 Hz, ArH), 7.45 (2H, d, J=8.80 Hz, ArH); EI-MS m/e (%): 262.0 (M+, 55), 219.0 (100), 177.0 (36); HREI-MS Calcd. for C14H18N2OS: 262.1140. found: 262.1140. Anal. Calcd. for C14H18N2OS: C, 64.09; H, 6.92; N, 10.68. found: C, 64.19; H, 7.02; N, 10.63.

reactant | 2-bromo-1-(4-methoxy-phenyl)-hexan-1-one | BrC(C(=O)C1=CC=C(C=C1)OC)CCCC | C13H17BrO2
reactant | thiourea | NC(=S)N | CH4N2S
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 5-n-butyl-4-(4-methoxy-phenyl)-thiazol-2-ylamine | yield of 57.2% | C(CCC)C1=C(N=C(S1)N)C1=CC=C(C=C1)OC | C14H18N2OS
